US07666871B2
2-(4-{5-Methyl-4-[2-(2-methyl-pyrrolidin-1-yl)-ethyl]-oxazol-2-yl}-phenoxymethyl)-pyridine is prepared in a manner substantially similar to Example 53 from 2-{5-Methyl-2-[4-(pyridin-2-ylmethoxy)-phenyl]-oxazol-4-yl}-ethanol and 2-methylpyrrolidine. MS (m/e): 378.3 (M+1)

reactant | 2-{5-Methyl-2-[4-(pyridin-2-ylmethoxy)-phenyl]-oxazol-4-yl}-ethanol | CC1=C(N=C(O1)C1=CC=C(C=C1)OCC1=NC=CC=C1)CCO | C18H18N2O3
reactant | 2-methylpyrrolidine | CC1NCCC1 | C5H11N
product | 2-(4-{5-Methyl-4-[2-(2-methyl-pyrrolidin-1-yl)-ethyl]-oxazol-2-yl}-phenoxymethyl)-pyridine | CC1=C(N=C(O1)C1=CC=C(OCC2=NC=CC=C2)C=C1)CCN1C(CCC1)C | C23H27N3O2
